US06380218B1
N-(2-Chloro-benzyl)-2-(pyridin-3-ylmethoxy)-nicotinamide
A solution of 2-(Pyridin-3-ylmethoxy)-nicotinic acid (0.300 grams, 1.3 mmole) 2-Chloro-benzylamine (0.202 grams, 1.43 mmole), and 1-hydroxybenzotriazole hydrate (0.210 grams, 1.56 mmole) in dry dimethylformamide (10 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.324 grams, 1.69 mmole) and stirred over night. The mixture was diluted with 50 ml water and 50 ml 1N sodium hydroxide and extracted with ethyl acetate. The combined extracts were washed with 1 N NaOH, water and brine, dried over Na2SO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 5% methanol/methylene chloride. Recrystalization from ethyl acetate/hexane gave white crystals (0.116 g). M.P. 91-93° C.; Anal. calcd. for C19H16N3O2Cl: C, 64.50; H, 4.56; N, 11.88. Found: C, 64.38; H, 4.58; N, 11.97.

reactant | 2-(Pyridin-3-ylmethoxy)-nicotinic acid | 1.3 mmole, 0.300 grams | N1=CC(=CC=C1)COC1=C(C(=O)O)C=CC=N1 | C12H10N2O3
reactant | 1-hydroxybenzotriazole hydrate | 1.56 mmole, 0.210 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.69 mmole, 0.324 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | N-(2-Chloro-benzyl)-2-(pyridin-3-ylmethoxy)-nicotinamide | 0.116 g | ClC1=C(CNC(C2=C(N=CC=C2)OCC=2C=NC=CC2)=O)C=CC=C1 | C19H16ClN3O2
